US04933355
5{-[1-Ethoxycarbonyl-1-[2-(3-p-nitrophenylureido)thiazol-4-yl]methylene}rhodanine-3-acetic acid bis(dimethylformamide) adduct
Following a procedure similar to that described in Example 1, the desired compound was prepared from 3.7 g of ethyl 2-(3-p-nitrophenylureido)thiazol-4-ylglyoxylate, 1.9 g of rhodanine-3-acetic acid, 1 g of ammonium chloride, 1 ml of 28% v/v aqueous ammonia and 40 ml of ethanol. The resulting product was a yellow powder having the following physical properties.

reactant | ethyl 2-(3-p-nitrophenylureido)thiazol-4-ylglyoxylate | 3.7 g | [N+](=O)([O-])C1=CC=C(C=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C14H12N4O6S
reactant | rhodanine-3-acetic acid | 1.9 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 1 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | [1-Ethoxycarbonyl-1-[2-(3-p-nitrophenylureido)thiazol-4-yl]methylene}rhodanine-3-acetic acid bis(dimethylformamide) | CN(C=O)C.CN(C=O)C.C(C)OC(=O)C(C=1N=C(SC1)NC(=O)NC1=CC=C(C=C1)[N+](=O)[O-])=C1C(N(C(S1)=S)CC(=O)O)=O | InChI=1S/C19H15N5O8S3.2C3H7NO/c1-2-32-16(28)13(14-15(27)23(7-12(25)26)19(33)35-14)11-8-34-18(21-11)22-17(29)20-9-3-5-10(6-4-9)24(30)31;2*1-4(2)3-5/h3-6,8H,2,7H2,1H3,(H,25,26)(H2,20,21,22,29);2*3H,1-2H3
